US05834575
Water content in 45.1 g (0.14 mol) of N-ethyl-N-[2-(tetrahydropyran-2-yl)oxyethyl]-4-bromoaniline was removed by azeotropic distillation carried out twice with toluene, followed by dissolution in 390 ml of anhydrous THF in an atmosphere of argon. The solution obtained was cooled to -78° C., and 195 ml (2.2-fold equivalent weight) of t-butyllithium (1.55M, an n-pentane solution) was dropwise added thereto, followed by stirring for 45 minutes. To the resulting reaction solution, 23 ml of N,N-dimethylformamide (hereinafter "DMF") was added, and the mixture obtained was stirred at room temperature for 5 hours. Thereafter, 100 ml of water was added to the resulting solution, which was then extracted with chloroform (100 ml×3). The organic layer obtained was dried with anhydrous sodium sulfate and then concentrated under reduced pressure. The residue thus obtained was purified by silica gel column chromatography (developing system: hexane/ethyl acetate=2/1) to obtain 35.0 g of N-ethyl-N-[2-(tetrahydropyran-2-yl)oxyethyl]-4-formylaniline (yield: 92%).

reactant | N-ethyl-N-[2-(tetrahydropyran-2-yl)oxyethyl]-4-bromoaniline | 0.14 mol, 45.1 g | C(C)N(C1=CC=C(C=C1)Br)CCOC1OCCCC1 | C15H22BrNO2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | t-butyllithium | 195 ml | C(C)(C)(C)[Li]
reactant | THF | 390 ml | C1CCOC1 | C4H8O
solvent | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 23 ml | CN(C=O)C | C3H7NO
solvent | n-pentane | CCCCC | C5H12
product | N-ethyl-N-[2-(tetrahydropyran-2-yl)oxyethyl]-4-formylaniline | 35.0 g, yield: 92% | C(C)N(C1=CC=C(C=C1)C=O)CCOC1OCCCC1 | C16H23NO3
